US09376442B2
Ethyl 4-[2-(cyclopropylmethoxy)-5-methylphenyl]-6-methyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylate
Starting from ethyl 4-[2-(cyclopropylmethoxy)-5-methylphenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylate (example D.a7) and commercially available (2-chloromethoxy-ethyl)trimethyl-silane the title compound is obtained as yellow viscous oil.

reactant | ethyl 4-[2-(cyclopropylmethoxy)-5-methylphenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylate | C1(CC1)COC1=C(C=C(C=C1)C)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)OCC | C21H23N3O3
reactant | (2-chloromethoxy-ethyl)trimethyl-silane | ClCOCC[Si](C)(C)C | C6H15ClOSi
product | Ethyl 4-[2-(cyclopropylmethoxy)-5-methylphenyl]-6-methyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylate | C1(CC1)COC1=C(C=C(C=C1)C)C=1C2=C(N=CN1)C(=C(N2COCC[Si](C)(C)C)C)C(=O)OCC | C27H37N3O4Si
